US07851465B2
1-Bromo-4-(4-methoxybenzyloxy)benzene.
4-Bromophenol (25.00 g, 145 mmol), para-methoxybenzyl chloride (24.89 g, 159 mmol), potassium iodide (2.17 g, 14.45 mmol), and potassium carbonate (39.9 g, 289 mmol) in acetone (600 mL) was heated to reflux for 18 h. The crude reaction mixture was then cooled to room temperature and filtered through a sintered glass funnel. The filtrate was concentrated in vacuo, and the white solid was recrystallized from ethanol yielding the product as a white solid (33.44 g, 79%). 1HNMR (300 MHz, CDCl3) δ 3.80 (s, 3H), 4.95 (s, 2H), 6.85 (d, 2H), 6.92 (d, 2H), 7.32-7.40 (m, 4H). Part II:

reactant | 4-Bromophenol | 145 mmol, 25.00 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | para-methoxybenzyl chloride | 159 mmol, 24.89 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium iodide | 14.45 mmol, 2.17 g | [I-].[K+]
reactant | potassium carbonate | 289 mmol, 39.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | 1-Bromo-4-(4-methoxybenzyloxy)benzene | BrC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C14H13BrO2
